US08629160B2
2-Chloro-N-(pyridin-2-yl)acetamide (43.5 mg, 0.25 mmol) was added portion-wise to a solution of (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (C19) (100 mg, 0.25 mmol) in EtOAc (2 ml). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue was purified by preparative HPLC (Eluent: CH3CN, H2O). The product was triturated with i-Pr2O, filtered and dried under vacuum at room temperature to obtain (R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(pyridin-2-ylamino)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (31 mg, 21.6% yield).

reactant | 2-Chloro-N-(pyridin-2-yl)acetamide | 0.25 mmol, 43.5 mg | ClCC(=O)NC1=NC=CC=C1 | C7H7ClN2O
reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.25 mmol, 100 mg | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(pyridin-2-ylamino)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 31 mg, 21.6% yield | [Cl-].S1C2=C(C(=C1)C(C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(NC3=NC=CC=C3)=O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C30H30N4O3S.ClH/c35-28(33-27-12-6-7-15-31-27)19-34-16-13-21(14-17-34)25(18-34)37-30(36)29(32-22-8-2-1-3-9-22)24-20-38-26-11-5-4-10-23(24)26;/h1-12,15,20-21,25,29,32H,13-14,16-19H2;1H/t21?,25-,29?,34?;/m0./s1
